US20010019995A1
6-Bromohexyl methyl ether was prepared from 1,6-dibromohexane. To 48.8 g (200 mmol) of 1,6-dibromohexane at 60° C. was added 44 g (200 mmol) of a 25% solution of sodium methoxide in methanol. The reaction mixture was held 0.5 hours, then an additional 4 g of sodium methoxide solution was added, and the reaction mixture was held an additional hour. Hexane and water were added, the organic phase was washed with brine and dried with magnesium sulfate, filtered and stripped. Fractional distillation under vacuum gave 93% pure 6-bromohexyl methyl ether. This bromide was converted to the Grignard reagent, which was converted to 1-(7-methoxyheptyl)-cyclopropene in the same manner that pentylmagnesium bromide was converted to 1-hexylcyclopropene.

reactant | 1,6-dibromohexane | BrCCCCCCBr | C6H12Br2
reactant | 1,6-dibromohexane | 200 mmol, 48.8 g | BrCCCCCCBr | C6H12Br2
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium methoxide | 4 g | C[O-].[Na+]
reactant | Hexane | CCCCCC | C6H14
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 6-bromohexyl methyl ether | 93% | COCCCCCCBr | C7H15BrO
